US08084483B2
Lithium hydroxide solution (1M aqueous, 0.59 mL, 0.59 mmol) is added to a solution of ethyl 2-(5-(fluoromethyl)-4-(4-methyl-5,6,7,8-tetrahydronaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetate (107 mg, 0.294 mmol) in THF/water (3/1, 1.2 mL) and the mixture stirred at room temperature for 18 h. The crude reaction mixture is concentrated, acidified with HCl (1N, 3 mL) and extracted with ethyl acetate (3×3 mL). The combined organic extracts are dried over sodium sulfate, filtered and concentrated to afford 2-(5-(fluoromethyl)-4-(4-methyl-5,6,7,8-tetrahydronaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid.

reactant | Lithium hydroxide | 0.59 mmol, 1M, 0.59 mL | [OH-].[Li+]
reactant | ethyl 2-(5-(fluoromethyl)-4-(4-methyl-5,6,7,8-tetrahydronaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetate | 0.294 mmol, 107 mg | FCC=1N(C(=NN1)SCC(=O)OCC)C1=CC=C(C=2CCCCC12)C | C18H22FN3O2S
solvent | THF water | 1.2 mL | C1CCOC1.O
product | 2-(5-(fluoromethyl)-4-(4-methyl-5,6,7,8-tetrahydronaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid | FCC=1N(C(=NN1)SCC(=O)O)C1=CC=C(C=2CCCCC12)C | C16H18FN3O2S
